US05149462
Synthesis of (2R,5S)-2-(4-benzyloxyphenyl)-5-hydroxymethyl-δ-valerolactone
In 2 ml of tetrahydrofuran was dissolved 1.01 g (10 millimoles) of diisopropyl amine, and 6.5 ml of 14.5% solution of n-butyl lithium in hexane was added to the solution to form lithium diisopropylamine. The solution was cooled to -20° C. and a solution of 1.21 g (5 millimoles) of 4-benzyloxyphenylacetic acid in 5 ml of tetrahydrofuran was added dropwise into the solution. Then 3 ml of hexamethyl phosphorictriamide was added to the mixture, and reaction was carried out at a temperature maintained at -5° to 0° C. with stirring for 30 minutes. The obtained di-anion solution was cooled to -30° C., and 2.3 g (9.6 millimoles) of (S)-4-bromo-1,2-butanediol acetonide was added dropwise into the solution. After the dropwise addition, the mixture was stirred for 2 hours at a temperature controlled to 10° to 20° C. Then, water was added to the mixture, tetrahydrofuran was removed by distillation, and the residue was neutralized with dilute hydrochloric acid. The reaction product was extracted from the solution with chloroform, and the extract was washed with water and dried over magnesium sulfate. The solvent was removed under a reduced pressure. The obtained product was purified by the silica gel column chromatography to obtain purified (2R,5S)-2-(4-benzyloxyphenyl)-5-hydroxymethyl-δ-valerolactone.

reactant | 4-benzyloxyphenylacetic acid | 5 millimoles, 1.21 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | hexamethyl phosphorictriamide | 3 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | (S)-4-bromo-1,2-butanediol acetonide | 9.6 millimoles, 2.3 g | [CH2-]C(=O)C.BrCC[C@@H](CO)O
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2R,5S)-2-(4-benzyloxyphenyl)-5-hydroxymethyl-δ-valerolactone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1C(=O)O[C@@H](CC1)CO | C19H20O4
